* NGSPICE file created from invx1.ext - technology: sky130A

.subckt invx1 vin vout vdd vss
X0 vout vin vss vss sky130_fd_pr__nfet_01v8 ad=0.1764 pd=1.68 as=0.1764 ps=1.68 w=0.42 l=0.15
**devattr s=7056,336 d=7056,336
X1 vout vin vdd vdd sky130_fd_pr__pfet_01v8 ad=0.5292 pd=3.36 as=0.5292 ps=3.36 w=1.26 l=0.15
**devattr s=21168,672 d=21168,672
.ends

