.subckt not2 vin vout vdd vss
xmp vout vin vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=2.56 as=0.768 ad=0.768 ps=5.72 pd=5.72
xmn vout vin vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=0.84 as=0.252 ad=0.252 ps=2.28 pd=2.28
.ends
