* NGSPICE file created from a21oi.ext - technology: sky130A

.subckt a21oi a1 a2 b1 vdd vss y
X0 a_n1114_n4# a1 vdd vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=12000,520
X1 a_n1114_n4# a2 vdd vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=12000,520 d=6000,260
X2 a_n1114_n4# b1 y vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=12000,520
X3 a_n1114_n4# a1 vdd vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=12000,520 d=6000,260
X4 a_n1114_n4# b1 y vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=12000,520 d=6000,260
X5 vss b1 y vss sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.5 as=0.135 ps=1.5 w=0.45 l=0.15
**devattr s=5400,300 d=5400,300
X6 vdd a2 a_n1114_n4# vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=6000,260
X7 a_n1114_n4# a2 vdd vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=12000,520
X8 y b1 a_n1114_n4# vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=6000,260
X9 vdd a1 a_n1114_n4# vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=6000,260
X10 vss a2 a_n1114_n224# vss sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.5 as=0.0675 ps=0.75 w=0.45 l=0.15
**devattr s=2700,150 d=5400,300
X11 a_n1114_n224# a2 vss vss sky130_fd_pr__nfet_01v8 ad=0.0675 pd=0.75 as=0.135 ps=1.5 w=0.45 l=0.15
**devattr s=5400,300 d=2700,150
X12 y a1 a_n1114_n224# vss sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.5 as=0.0675 ps=0.75 w=0.45 l=0.15
**devattr s=2700,150 d=5400,300
X13 a_n1114_n224# a1 y vss sky130_fd_pr__nfet_01v8 ad=0.0675 pd=0.75 as=0.135 ps=1.5 w=0.45 l=0.15
**devattr s=5400,300 d=2700,150
.ends

