* NGSPICE file created from a21oi.ext - technology: sky130A

.subckt a21oi a1 a2 b1 vdd vss y
X0 a_n1114_n4# a1 vdd vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=12000,520
X1 a_n1114_n4# a2 vdd vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=12000,520 d=6000,260
X2 a_n1114_n4# b1 y vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=12000,520
X3 a_n1114_n4# a1 vdd vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=12000,520 d=6000,260
X4 a_n1114_n4# b1 y vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=12000,520 d=6000,260
X5 vss b1 y vss sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.5 as=0.135 ps=1.5 w=0.45 l=0.15
**devattr s=5400,300 d=5400,300
X6 vdd a2 a_n1114_n4# vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=6000,260
X7 a_n1114_n4# a2 vdd vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=12000,520
X8 y b1 a_n1114_n4# vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=6000,260
X9 vdd a1 a_n1114_n4# vdd sky130_fd_pr__pfet_01v8 ad=0.2 pd=1.73333 as=0.2 ps=1.73333 w=1 l=0.15
**devattr s=6000,260 d=6000,260
X10 vss a2 a_n1114_n224# vss sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.5 as=0.0675 ps=0.75 w=0.45 l=0.15
**devattr s=2700,150 d=5400,300
X11 a_n1114_n224# a2 vss vss sky130_fd_pr__nfet_01v8 ad=0.0675 pd=0.75 as=0.135 ps=1.5 w=0.45 l=0.15
**devattr s=5400,300 d=2700,150
X12 y a1 a_n1114_n224# vss sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.5 as=0.0675 ps=0.75 w=0.45 l=0.15
**devattr s=2700,150 d=5400,300
X13 a_n1114_n224# a1 y vss sky130_fd_pr__nfet_01v8 ad=0.0675 pd=0.75 as=0.135 ps=1.5 w=0.45 l=0.15
**devattr s=5400,300 d=2700,150
C0 b1 y 0.15376f
C1 a1 y 0.08047f
C2 a2 y 0
C3 a1 b1 0.01136f
C4 vdd y 0.22587f
C5 a2 a1 0.0525f
C6 vdd b1 0.13852f
C7 vdd a1 0.40834f
C8 a_n1114_n224# y 0.11833f
C9 vdd a2 0.21072f
C10 a_n1114_n224# b1 0
C11 a_n1114_n4# y 0.50282f
C12 a_n1114_n224# a1 0.14769f
C13 a_n1114_n4# b1 0.07687f
C14 a_n1114_n224# a2 0.04479f
C15 a_n1114_n4# a1 0.29918f
C16 a_n1114_n224# vdd 0.01848f
C17 a_n1114_n4# a2 0.05658f
C18 a_n1114_n4# vdd 1.28977f
C19 a_n1114_n4# a_n1114_n224# 0.05679f
C20 y vss 0.41345f
C21 b1 vss 0.43351f
C22 a1 vss 0.50924f
C23 a2 vss 0.45217f
C24 vdd vss 2.28043f
C25 a_n1114_n224# vss 0.56133f
C26 a_n1114_n4# vss 0.11157f
.ends

