* NGSPICE file created from dfxtn.ext - technology: sky130A

.subckt tg in out en enb vdd vss
X0 in enb out vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=3024,156 d=3024,156
X1 out enb in vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=3024,156 d=6048,312
X2 out en in vss sky130_fd_pr__nfet_01v8 ad=0.1512 pd=1.56 as=0.1512 ps=1.56 w=0.42 l=0.15
**devattr s=6048,312 d=6048,312
X3 out enb in vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=6048,312 d=3024,156
.ends

.subckt invx1 in out vdd vss
X0 vdd in out vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=3024,156 d=3024,156
X1 out in vdd vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=3024,156 d=6048,312
X2 out in vss vss sky130_fd_pr__nfet_01v8 ad=0.1512 pd=1.56 as=0.1512 ps=1.56 w=0.42 l=0.15
**devattr s=6048,312 d=6048,312
X3 out in vdd vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=6048,312 d=3024,156
.ends

.subckt latch in out en vdd enb vss
Xtg_0 in tg_1/out en enb vdd vss tg
Xtg_1 tg_1/in tg_1/out enb en vdd vss tg
Xinvx1_0 tg_1/out out vdd vss invx1
Xinvx1_1 out tg_1/in vdd vss invx1
.ends

.subckt dfxtn d q c vdd vss
Xlatch_0 latch_0/in latch_1/in c vdd latch_1/en vss latch
Xlatch_1 latch_1/in invx1_2/in latch_1/en vdd c vss latch
Xinvx1_0 d latch_0/in vdd vss invx1
Xinvx1_1 c latch_1/en vdd vss invx1
Xinvx1_2 invx1_2/in q vdd vss invx1
.ends

