* NGSPICE file created from dfxtn.ext - technology: sky130A

.subckt tg in out en enb vdd vss
X0 in enb out vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=3024,156 d=3024,156
X1 out enb in vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=3024,156 d=6048,312
X2 out en in vss sky130_fd_pr__nfet_01v8 ad=0.1512 pd=1.56 as=0.1512 ps=1.56 w=0.42 l=0.15
**devattr s=6048,312 d=6048,312
X3 out enb in vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=6048,312 d=3024,156
C0 out en 0.07151f
C1 in en 0.00907f
C2 in out 0.26956f
C3 enb en 0.01993f
C4 vdd en 0.00403f
C5 enb out 0.05681f
C6 vdd out 0.03231f
C7 enb in 0.08671f
C8 vdd in 0.12663f
C9 vdd enb 0.15588f
C10 en vss 0.29863f
C11 out vss 0.1594f
C12 in vss 0.19345f
C13 enb vss 0.34859f
C14 vdd vss 0.52519f
.ends

.subckt invx1 in out vdd vss
X0 vdd in out vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=3024,156 d=3024,156
X1 out in vdd vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=3024,156 d=6048,312
X2 out in vss vss sky130_fd_pr__nfet_01v8 ad=0.1512 pd=1.56 as=0.1512 ps=1.56 w=0.42 l=0.15
**devattr s=6048,312 d=6048,312
X3 out in vdd vdd sky130_fd_pr__pfet_01v8 ad=0.1008 pd=1.04 as=0.1008 ps=1.04 w=0.42 l=0.15
**devattr s=6048,312 d=3024,156
C0 in out 0.09754f
C1 vdd out 0.20135f
C2 vdd in 0.19312f
C3 out vss 0.2797f
C4 in vss 0.46461f
C5 vdd vss 0.5609f
.ends

.subckt latch in en tg_1/out vdd enb out tg_1/in vss
Xtg_0 in tg_1/out en enb vdd vss tg
Xtg_1 tg_1/in tg_1/out enb en vdd vss tg
Xinvx1_0 tg_1/out out vdd vss invx1
Xinvx1_1 out tg_1/in vdd vss invx1
C0 out tg_1/in 0.24428f
C1 enb tg_1/in 0.056f
C2 vdd tg_1/in 0.39868f
C3 enb out 0.04708f
C4 enb vdd 0.00241f
C5 vdd out 0.0617f
C6 en tg_1/in 0.34398f
C7 tg_1/out tg_1/in 0.22086f
C8 en out 0.25622f
C9 en enb 1.28793f
C10 tg_1/out out 0.02423f
C11 enb tg_1/out 0.0893f
C12 en vdd 0.01201f
C13 tg_1/out vdd 0.1387f
C14 in tg_1/in 0.00354f
C15 en tg_1/out 0.48927f
C16 in out 0
C17 in enb 0.07412f
C18 in vdd 0.1056f
C19 in en 0.09005f
C20 in tg_1/out 0.01806f
C21 tg_1/in vss 0.44879f
C22 out vss 0.69348f
C23 vdd vss 1.84585f
C24 tg_1/out vss 0.69694f
C25 enb vss 1.52166f
C26 en vss 0.76901f
C27 in vss 0.18603f
.ends

.subckt dfxtn d q c vdd vss
Xlatch_0 latch_0/in c latch_0/tg_1/out vdd latch_1/en latch_1/in latch_0/tg_1/in vss
+ latch
Xlatch_1 latch_1/in latch_1/en latch_1/tg_1/out vdd c invx1_2/in latch_1/tg_1/in vss
+ latch
Xinvx1_0 d latch_0/in vdd vss invx1
Xinvx1_1 c latch_1/en vdd vss invx1
Xinvx1_2 invx1_2/in q vdd vss invx1
C0 invx1_2/in latch_1/tg_1/in 0.0088f
C1 vdd latch_1/tg_1/in 0.02553f
C2 vdd invx1_2/in 0.01506f
C3 c invx1_2/in 0.00124f
C4 c vdd 0.07558f
C5 latch_1/en latch_1/tg_1/in 0
C6 latch_1/en invx1_2/in 0.00151f
C7 latch_1/en vdd 0.02357f
C8 latch_1/in latch_1/tg_1/in 0
C9 c latch_1/tg_1/out 0
C10 latch_0/tg_1/in vdd 0.0196f
C11 latch_1/in invx1_2/in 0
C12 latch_1/in vdd 0.06497f
C13 latch_1/en latch_1/tg_1/out 0
C14 latch_0/tg_1/in latch_1/tg_1/out 0
C15 latch_1/in latch_1/tg_1/out 0.00598f
C16 latch_1/en c 0.66205f
C17 latch_0/tg_1/in c 0.01285f
C18 latch_1/in c 0.0848f
C19 d vdd 0.15914f
C20 latch_0/tg_1/in latch_1/en 0.00222f
C21 latch_1/in latch_1/en 0.04251f
C22 latch_0/tg_1/out c 0
C23 latch_1/in latch_0/tg_1/in 0.01207f
C24 latch_0/tg_1/out latch_1/en 0
C25 d c 0.36115f
C26 q latch_1/tg_1/in 0.01338f
C27 latch_0/in vdd 0.035f
C28 latch_0/tg_1/out latch_1/in 0
C29 q invx1_2/in 0
C30 q vdd 0
C31 d latch_1/en 0.09262f
C32 d latch_0/tg_1/in 0
C33 latch_0/in c 0.05593f
C34 q c 0
C35 d latch_0/tg_1/out 0.00288f
C36 latch_0/in latch_1/en 0.06449f
C37 latch_0/in latch_0/tg_1/in 0
C38 q latch_1/en 0
C39 latch_0/in latch_0/tg_1/out 0
C40 latch_0/in d 0.00777f
C41 q vss 0.26331f
C42 d vss 0.47148f
C43 latch_1/tg_1/in vss 0.46607f
C44 invx1_2/in vss 1.13674f
C45 vdd vss 5.57422f
C46 latch_1/tg_1/out vss 0.70406f
C47 c vss 2.18871f
C48 latch_1/en vss 2.1965f
C49 latch_0/tg_1/in vss 0.46291f
C50 latch_1/in vss 0.86886f
C51 latch_0/tg_1/out vss 0.70406f
C52 latch_0/in vss 0.37981f
.ends

