.subckt latch in out en enb vdd vss

Xtg1 in na en  enb vdd vss tg 
Xtg2 nb na enb en  vdd vss tg

Xinv1 na  out vdd vss invx1_sch
Xinv2 out nb  vdd vss invx1_sch

.ends
