.include invx1_schematic.spice 
.include tg_schematic.spice 
.include latch_schematic.spice 

.subckt dfxtn d q c vdd vss

Xinvclk c cb vdd vss invx1_sch

Xinp d db vdd vss invx1_sch

Xmaster db y c  cb vdd vss latch
Xslave  y qb cb c  vdd vss latch 

Xout qb q vdd vss invx1_sch

.ends
