.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.include dfxtn_layout_pex.spice
.include invx1_schematic.spice

VDD vdd 0 DC 1.8
VSS vss 0 DC 0

.param clk_half_slew = 5p
.param d_half_slew = 500p
.param d_rise_point = 9.5n

VCLK clk 0 PWL(0n 1.8 2n 1.8 2.01n 0 4n 0 4.01n 1.8 {10n - clk_half_slew} 1.8 {10n + clk_half_slew} 0)
VD d 0 PWL(0n 1.8 {d_rise_point - d_half_slew} 1.8 {d_rise_point + d_half_slew} 0)

XDF1 d q clk vdd vss dfxtn
CLOAD q vss 100f

.ic V(q) = 0
.tran 10p 20n

.meas tran i_stable find i(vdd) at=7.5n
.meas tran p_static param='abs(i_stable)*1.8'

.meas tran energy_dynamic integ par('i(vdd) * v(vdd)') from=8n to=12n
.meas tran p_dynamic param='(abs(energy_dynamic) / 4n) - p_static' 

.control
run

set color0 = white
set color1 = black
set color2 = red

* plot V(clk) V(d) 
* plot V(q)
* plot i(vdd)
.endc

.end
