.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include dfxtn_layout_pex.spice

VDD vdd 0 DC 1.8
VSS vss 0 DC 0

VCLK c 0 PWL(0 0 6n 0 6.1n 1.8 12n 1.8 12.1n 0)
VD d 0 DC 0

XDF1 d q c vdd vss dfxtn

.tran 1p 20n

.meas tran q_rise INTEG par('-i(vclk)') from=6n to=7n
.meas tran q_fall INTEG par('-i(vclk)') from=12n to=13n

.meas tran c_rise param='q_rise / 1.8'
.meas tran c_fall param='-q_fall / 1.8'
.meas tran c_avg param='(c_rise + c_fall) / 2'

.control
run

set color0 = white 
set color1 = black 
set color2 = red 

plot v(c) 
plot -i(vclk)

.endc

.end
