.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.include dfxtn_layout_pex.spice
.include invx1_schematic.spice

VDD vdd 0 DC 1.8
VSS vss 0 DC 0

VCLK clk 0 DC 0
VD   d   0 DC 1.8

XU1 d q clk vdd vss dfxtn
XLOAD q nc vdd vss invx1_sch 


.tran 10p 20n

.meas tran i_stable find i(vdd) at=19n
.meas tran pstatic param='abs(i_stable)*1.8'

.control
run
plot v(d) v(clk)
plot v(q)
plot i(vdd)
.endc

.end
